US07612114B2
To a solution of pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (100 mg) and 4-(4-chlorocarbonylphenyl)piperidine-1-carboxylic acid tert-butyl ester (125 mg) in 1,4-dioxane (2 ml) was added N,N-diisopropylethylamine (0.45 ml), and the solution was stirred for 4 hours at 90° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide (R)-4-{4-{{2-[6-(2,2-dimethylpropionyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-4,5-dimethoxyphenyl}ethylcarbamoyl}phenyl}piperidine-1-carboxylic acid tert-butyl ester (189 mg). Synthesized from this compound (60 mg) according to an analogous synthetic method to Example 337 described below and purified by LC-MS, the title compound (29 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 100 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 4-(4-chlorocarbonylphenyl)piperidine-1-carboxylic acid tert-butyl ester | 125 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)Cl | C17H22ClNO3
reactant | N,N-diisopropylethylamine | 0.45 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (R)-4-{4-{{2-[6-(2,2-dimethylpropionyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-4,5-dimethoxyphenyl}ethylcarbamoyl}phenyl}piperidine-1-carboxylic acid tert-butyl ester | 189 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(NCCC1=C(C=C(C(=C1)OC)OC)[C@H]1CC2=CC=C(C=C2CC1)OC(C(C)(C)C)=O)=O | C42H54N2O7
